US09108939B2
C: 2-(4-((4-(4-Amino-2-bromophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
Iron (94 mmol, 5.24 g) (reduced powder) was added to a suspension 2-(4-((4-(2-bromo-4-nitrophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (9.40 mmol, 5.24 g) in 2-propanol (100 mL) containing concentrated hydrochloric acid (1 mL) and the mixture refluxed for 4.5 hours. The mixture was cooled, diluted with dichloromethane and filtered through dicalite. The filtrate was washed with sodium carbonate solution, the organic phase dried over magnesium sulfate and concentrated under reduced pressure to afford the title compound (4.5 g).

reactant | 2-(4-((4-(2-bromo-4-nitrophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 9.40 mmol, 5.24 g | BrC1=C(OC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC(=C1)[N+](=O)[O-] | C21H19BrF6N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Iron | 94 mmol, 5.24 g | [Fe] | Fe
product | 2-(4-((4-(4-Amino-2-bromophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 4.5 g | NC1=CC(=C(OC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)Br | C21H21BrF6N2O2
